US06897224B2
4-(5-Fluoro-2-methoxyphenyl)-4-methyl-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)pentan-2-ol
300 mg (0.97 mmol) of 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 184 mg (1.16 mmol) of 5-amino-2-methylquinoline are heated in 10 ml of acetic acid over 6 hours to 125° C. After cooling to room temperature, it is mixed with 320 mg (1.51 mmol) of sodium triacetoxy borohydride, and it is allowed to stir for 16 hours. After the addition of another 320 mg (1.51 mmol) of sodium triacetoxy borohydride and 2 hours of stirring, toluene is added, and it is concentrated by evaporation in a vacuum. The residue is taken up in ethyl acetate, the organic phase is washed with saturated sodium bicarbonate and saturated sodium chloride solution, and it is dried on sodium sulfate. After chromatography on silica gel with hexane-ethyl acetate (0-60%), 221 mg of the product is obtained.

reactant | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 0.97 mmol, 300 mg | FC=1C=CC(=C(C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | 5-amino-2-methylquinoline | 1.16 mmol, 184 mg | NC1=C2C=CC(=NC2=CC=C1)C | C10H10N2
reactant | sodium triacetoxy borohydride | 1.51 mmol, 320 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxy borohydride | 1.51 mmol, 320 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-(5-Fluoro-2-methoxyphenyl)-4-methyl-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)pentan-2-ol | 221 mg | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F)(C)C)OC | C24H26F4N2O2
